US07199145B2
Preparation of (6S)-1-(1H-indol-3-ylmethyl)-3-(4-methoxyphenyl)-6-(4-phenyl-1H-imidazol-2-yl)dihydro-2.4(1H, 3H)-pyrimidinedione
4-methoxyphenylisocyanate (40 μl, 1.2 eq.) is added to a solution of benzyl (3S)-3-[(1H-indol-3-ylmethyl)amino]-3-(4-phenyl-1H-imidazol-2-yl)propanoate (100 mg, 1 eq.) in THF (2 ml). The mixture is stirred for 5 hours at a temperature of approximately 20° C. then diluted with 2 ml of THF. An aminomethylpolystyrene resin (acquired from Novabiochem, load 3.2 mmol/g, 138 mg, 2 eq.) is added. The mixture is stirred for 3 hours at a temperature of approximately 20° C. then filtered on frit. The filtrate is concentrated under reduced pressure at 40° C. 2 ml of THF and 2 ml of triethylamine are added to the residue. The mixture is taken to reflux for 24 hours then concentrated under reduced pressure. Purification of the residue by flash chromatography on silica gel (eluent: ethyl acetate/heptane 8:2) yields the expected compound (80 mg, yield 74

reactant | 4-methoxyphenylisocyanate | 40 μl, 1.2 eq. | COC1=CC=C(C=C1)N=C=O | C8H7NO2
reactant | benzyl (3S)-3-[(1H-indol-3-ylmethyl)amino]-3-(4-phenyl-1H-imidazol-2-yl)propanoate | 100 mg, 1 eq. | N1C=C(C2=CC=CC=C12)CN[C@@H](CC(=O)OCC1=CC=CC=C1)C=1NC=C(N1)C1=CC=CC=C1 | C28H26N4O2
solvent | THF | 2 ml | C1CCOC1 | C4H8O
solvent | THF | 2 ml | C1CCOC1 | C4H8O
product | (6S)-1-(1H-indol-3-ylmethyl)-3-(4-methoxyphenyl)-6-(4-phenyl-1H-imidazol-2-yl)dihydro-2.4(1H, 3H)-pyrimidinedione | N1C=C(C2=CC=CC=C12)CN1C(N(C(C[C@H]1C=1NC=C(N1)C1=CC=CC=C1)=O)C1=CC=C(C=C1)OC)=O | C29H25N5O3
